US06864390B2
Diphenylphosphoryl azide (4.48 g, 16 mmol), triethylamine (1.69 g, 16.8 mmol), and acid ((1S,3R)-1-benzyl-3-methyl-cyclopentyl)-acetic acid (3.74 g, 16 mmol) were refluxed in toluene (40 mL) for 17 hours. The mixture was allowed to cool and then taken up in ethyl acetate (150 mL), washed with saturated aqueous sodium hydrogen carbonate (200 mL), brine (150 mL), and dried (MgSO4). The solvent was removed under reduced pressure to give 3.69 g (100%) of ((1S,3R)-1-isocyanatomethyl-3-methyl-cyclopentylmethyl)-benzene, which was used without further purification;

reactant | Diphenylphosphoryl azide | 16 mmol, 4.48 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 16.8 mmol, 1.69 g | C(C)N(CC)CC | C6H15N
reactant | ((1S,3R)-1-benzyl-3-methyl-cyclopentyl)-acetic acid | 16 mmol, 3.74 g | C(C1=CC=CC=C1)[C@]1(C[C@@H](CC1)C)CC(=O)O | C15H20O2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | ((1S,3R)-1-isocyanatomethyl-3-methyl-cyclopentylmethyl)-benzene | 3.69 g, 100% | N(=C=O)C[C@@]1(C[C@@H](CC1)C)CC1=CC=CC=C1 | C15H19NO
